US08557805B2
7-Ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxamide
To a solution of 7-ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylic acid (3.4 g) in N,N-dimethylformamide (40 mL) were added under ice-cooling 1-hydroxybenzotriazole ammonium salt (2.2 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.8 g), and the mixture was stirred from under ice-cooling to room temperature for 15 hr. The reaction solution was concentrated under reduced pressure, water was added to the obtained residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give the title compound (3.4 g, yield 100%) as a pale-yellow amorphous solid.

reactant | 7-ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylic acid | 3.4 g | C(C)C=1C=C(C=C2C=C(NC12)C(=O)O)OC=1C=NC(=CC1)S(=O)(=O)C | C17H16N2O5S
reactant | 1-hydroxybenzotriazole ammonium salt | 2.2 g | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.8 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 7-Ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxamide | 3.4 g, yield 100% | C(C)C=1C=C(C=C2C=C(NC12)C(=O)N)OC=1C=NC(=CC1)S(=O)(=O)C | C17H17N3O4S
